US08084448B2
D. 2-{2-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-ethyl}-piperidine-1-carboxylic Acid Tert-butyl Ester
A solution of 2-{2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester in 2 mL of ethanol/water (1:1) is hydrogenated over 10% Pd/C at 1 atm for 2 h. The catalyst is removed by filtration through Celite and the solvent is removed under reduced pressure to give the title compound: LC rt 1.52 (method A); (M−1)−=438.

reactant | 2-{2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CCC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1 | C27H35N3O6S
solvent | ethanol water | 2 mL | C(C)O.O
catalyst | Pd/C | [Pd] | Pd
product | 2-{2-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-ethyl}-piperidine-1-carboxylic Acid Tert-butyl Ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CCC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)O | C20H29N3O6S
